US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)indolin-5-yl)cyclopropanecarboxamide
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide (50 mg, 0.13 mmol) was dissolved in dichloroethane (0.20 mL) and 2,2-dimethyl-1,3-dioxan-5-one (0.20 mL). Trifluoroacetic acid was added (0.039 mL) and the resulting solution was allowed to stir for 20 minutes. Sodium triacetoxyborohydride was added (55 mg, 0.26 mmol) and the reaction mixture was stirred for 30 minutes. The crude reaction mixture was then evaporated to dryness, dissolved in N,N-dimethylformamide and purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide | 0.13 mmol, 50 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(NC1=CC2)C(C)(C)C | C23H26N2O3
reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 0.20 mL | ClC(C)Cl | C2H4Cl2
solvent | 2,2-dimethyl-1,3-dioxan-5-one | 0.20 mL | CC1(OCC(CO1)=O)C | C6H10O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(1,3-dihydroxypropan-2-yl)indolin-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(N(C1=CC2)C(CO)CO)C(C)(C)C | C26H32N2O5
